* sg13g2-ldo -- SG13CMOS5L loop-gain / phase-margin bench (issue #21).
* Generated from
* sim/ldo-cmos5l-pvt-sweep/testbench/tb_loopgain_cmos5l.spice.tmpl by
* sim/ldo-cmos5l-pvt-sweep/run_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly. Full methodology + the loop-gain
* derivation below are in sim/ldo-cmos5l-pvt-sweep/README.md "Loop-gain
* measurement method"; this header is a short pointer.
*
* Generated for: corner=mos_ff temp=-40C res=res_bcs
* cap=cap_typ Cc_w=100u (nominal)
* PDK: ihp-sg13cmos5l /home/ubuntu/share/pdk (see sim/pdk-cmos5l.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* Design netlist under test (frozen at this repo's git sha in the record,
* or a Cc-width-substituted copy of it for the Cc-sensitivity points --
* see README.md "MoM-cap (Cc) sensitivity sweep"):
*   /home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-31/design/sg13cmos5l/netlist/ldo_core_cmos5l.spice
*
* THIS BENCH FLATTENS ldo_core_cmos5l ONE LEVEL, unlike tb_dcsweep_cmos5l
* and tb_psrr_cmos5l, so a loop-break source can be inserted at FB -- the
* feedback-divider node that drives the amplifier's INP pin (a MOSFET gate:
* zero DC/AC current draw both before and after the break, so the break
* does not perturb the original DC operating point -- see README.md for
* the full derivation of why this is valid here). The XMpass/XRtop/XRbot/Xamp
* instantiation lines below are reproduced VERBATIM from
* design/sg13cmos5l/netlist/ldo_core_cmos5l.spice's ldo_core_cmos5l subckt
* body (only FB -> FBAMP on Xamp's first pin, plus the inserted Vbreak,
* differ) -- run_sweep.sh asserts this file's copy still matches the
* generated netlist's topology every run (see that script's
* assert_loopgain_topology_sync()), so a future schematic edit that
* changes this connectivity fails loudly here instead of silently
* invalidating this bench.
*
* Loop-gain derivation (full argument in README.md): break the loop with
* an ideal series source Vbreak (0V DC, AC=1) between FB (the real
* feedback-divider node) and FBAMP (the node that actually drives the
* amp's INP pin). Because FBAMP carries zero current (only touches Vbreak
* and a MOSFET gate) both before and after the break, and FB is purely
* resistive-divider-determined by VOUT, algebra gives V(FB) = T(s)*V(FBAMP)
* for the SAME T(s) an unbroken loop would have -- so T(s) is read
* directly off this one AC analysis as the ratio of two node voltages, no
* L/C blocking network needed (that network exists to protect the DC bias
* point when the downstream node draws real current; it doesn't here).
* Convention: Loop Gain L(s) = -v(fb)/v(fbamp) (sign flipped so a healthy
* negative-feedback loop shows a large POSITIVE real L(0), phase near 0 at
* DC, rolling toward -180 degrees at the unity-gain crossover -- the
* standard Bode-plot convention phase margin = 180 + phase(L) at the
* frequency where |L|=1 (0dB) is stated against).

.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib" mos_ff
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib" res_bcs
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib" cap_typ

.options temp=-40 tnom=27

.include "/home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-31/design/sg13cmos5l/netlist/ldo_core_cmos5l.spice"

Vin VIN 0 dc 3.30
Vref VREF 0 dc 0.90 ac 0
Ibias IBIAS 0 dc 2u
Iload VOUT 0 dc 0.001
Cout VOUT 0 1u

* --- flattened ldo_core_cmos5l, loop broken at FB (see header). VSS is
* tied to global ground by the ideal 0V Vgnd source below (never aliased
* to node "0" directly in the four mirrored lines) so this block stays a
* byte-for-byte copy of ldo_core_cmos5l's subckt body, FB->FBAMP on Xamp's
* first pin excepted -- exactly what run_sweep.sh's
* assert_loopgain_topology_sync() diffs against the generated netlist. ---
Vgnd VSS 0 dc 0
XMpass VOUT EAOUT VIN VIN sg13_hv_pmos w=2800u l=0.5u ng=1 m=1
Rtop VOUT FB 300k m=1
Rbot FB VSS 300k m=1
Vbreak FB FBAMP 0 ac 1
Xamp FBAMP VREF EAOUT VIN VSS IBIAS ldo_erramp_cmos5l

.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomi.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi

op
echo "LOOPGAIN_VOUT_OP $&v(vout)"

ac dec 20 1 100meg
let loopgain = -v(fb)/v(fbamp)
let loopgain_db = db(loopgain)
let loopgain_deg = ph(loopgain)*180/3.14159265358979
wrdata /home/ubuntu/GitHub/sg13g2-ldo/.loom/worktrees/issue-31/sim/ldo-cmos5l-pvt-sweep/corners/20260916-210331-9d3ace1/loopgain_divattr_ff_-40c_rbcs_ac.csv loopgain_db loopgain_deg
.endc
.end
